### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace/Simplex/Centroid): define centroid and medians

### PR DESCRIPTION
**Pull request by zcyemi**
---
This file proves several lemmas involving the centroids and medians of a simplex in affine space. 

definitions:
- `centroid` is the centroid of a simplex, defined as abbreviation of the `Finset.univ.centroid`.
- `faceOppositeCentroid` is the centroid of the facet obtained as `(Simplex.faceOpposite i).centroid`
- `median` is the line connecting a vertex to the faceOppositeCentroid.

Main Results:
- Commandino's theorem
-  The medians of a simplex are concurrent at the centroid

- [ ] depends on #29128

### CODE REVIEW

**Comment by jsm28** [comment]
What results in the `large-import` warning from CI? If it's the `FiniteDimensional` import and that's only needed for `Collinear`, it might be better to switch the import direction and move that one lemma to `Collinear.lean`.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 1]
```diff
@@ -24,11 +50,102 @@ namespace Simplex
...
+    (by simp) hi
+  have h2 : w i = (1 : k) / (n+1) := by
+    field_simp [wdef, centroidWeights_apply, card_univ, Fintype.card_fin, Nat.cast_add,
+      Nat.cast_one]
+  field_simp [h2] at h1
+  norm_cast at h1
+
+/-- The vector from any point to the centroid is the average of vectors to the simplex vertices. -/
+theorem centroid_vsub_eq {n : ℕ} [CharZero k] (s : Simplex k P n) (p : P) :
+    s.centroid -ᵥ p = ((1 : k) / (n + 1)) • ∑ x, (s.points x -ᵥ p) := by
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Throughout, I think we should use `⁻¹` (with appropriate coecions) instead of `1 /`.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 2]
```diff
@@ -64,21 +181,341 @@ faces of a simplex are equal if and only if those faces are given by
...
       (fun _ _ _ _ he => AffineIndependent.injective s₁.independent he)
       (fun _ _ _ _ he => AffineIndependent.injective s₂.independent he) h
 
+
+variable [NeZero n]
+
+/-- Replacing any vertex of a simplex with its centroid yields an affine independent set. -/
+theorem affineIndependent_centroid_replace_point [CharZero k] (s : Simplex k P n)
+    (i : Fin (n + 1)) :
+    AffineIndependent k fun x => if x = i then s.centroid else s.points x := by
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: This `if` is more idiomatically expressed using `Function.update`. And then I think the main content of this lemma should be factored out as something for an unbundled affine independent family indexed by a type that may not be finite (and where `k` is any division ring): replacing (using `Function.update`) one point of that family with any point not in the span of all the other points produces an affine independent family. Then the proof of this lemma should be a short wrapper round the general one.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 3]
```diff
@@ -24,11 +50,102 @@ namespace Simplex
...
+    s.centroid ∈ affineSpan k (Set.range s.points) :=
+  centroid_mem_affineSpan_of_card_eq_add_one k _ (card_fin (n + 1))
+
+/-- The centroid is equal to the affine combination of the points with `centroidWeights`. -/
+@[simp]
+theorem centroid_eq_affine_combination (s : Simplex k P n) :
+    s.centroid = affineCombination k univ s.points (centroidWeights k univ) := by rfl
+
+/-- The centroid does not lie in the affine span of the simplex's points with one vertex removed. -/
+theorem centroid_not_mem_affineSpan_compl [CharZero k] (s : Simplex k P n) (i : Fin (n + 1)) :
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: `not_mem` was changed to `notMem` in names some time ago.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 1 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: All updated use `⁻¹`.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 2 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Thanks!
I added the general version `AffineIndependent.affineIndependent_update_of_notMem_affineSpan` in PR #29128.
This theorem has been changed to `AffineIndependent k (Function.update s.points i s.centroid)`.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 3 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Updated as suggested.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 4]
```diff
@@ -28,9 +52,97 @@ namespace Simplex
...
+
+/-- The centroid lines in the affine span of the simplex's vertices. -/
+theorem centroid_mem_affineSpan [CharZero k] {n : ℕ} (s : Simplex k P n) :
+    s.centroid ∈ affineSpan k (Set.range s.points) :=
+  centroid_mem_affineSpan_of_card_eq_add_one k _ (card_fin (n + 1))
+
+/-- The centroid is equal to the affine combination of the points with `centroidWeights`. -/
+@[simp]
+theorem centroid_eq_affine_combination (s : Simplex k P n) :
+    s.centroid = affineCombination k univ s.points (centroidWeights k univ) := by rfl
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean:70]: This doesn't seem a good `simp` lemma since the RHS is clearly more complicated than the LHS.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 5]
```diff
@@ -83,6 +195,343 @@ theorem centroid_eq_of_range_eq {n : ℕ} {s₁ s₂ : Simplex k P n}
...
+/-- The `faceOppositeCentroid` lies in the affine span of all simplex vertices. -/
+theorem faceOppositeCentroid_mem_affineSpan [CharZero k] (s : Simplex k P n) (i : Fin (n + 1)) :
+    s.faceOppositeCentroid i ∈ affineSpan k (Set.range s.points) := by
+  unfold faceOppositeCentroid
+  have h : Set.range (s.faceOpposite i).points ⊆ Set.range s.points := by
+    intro j hj
+    rcases hj with ⟨k, _, rfl⟩
+    apply Set.mem_range_self
+  apply affineSpan_mono _ h
+  exact centroid_mem_affineSpan (s.faceOpposite i)
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: I'd tend to think that the fact it lies in the affine span of that face's vertices should be a standalone lemma (from which this one can then be deduced).

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 6]
```diff
@@ -83,6 +195,343 @@ theorem centroid_eq_of_range_eq {n : ℕ} {s₁ s₂ : Simplex k P n}
...
+    rw [eq_vadd_iff_vsub_eq, centroid_vsub_point_eq_smul_vsub,
+      faceOppositeCentroid_vsub_point_eq_smul_vsub, smul_smul, one_div, mul_assoc,
+      inv_mul_cancel₀ (by norm_cast), mul_one]
+  rw [h]
+  exact smul_vsub_vadd_mem_affineSpan_pair _ _ _
+
+/-- The median through a vertex is the same affine span of that vertex and the centroid. -/
+theorem median_eq_affineSpan_point_centroid [CharZero k] (s : Simplex k P n) (i : Fin (n + 1)) :
+    s.median i = affineSpan k {s.points i, s.centroid} := by
+  have h1 : s.median i ≤ affineSpan k {s.points i, s.centroid} := by
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: It's best to use the `line[k, s.points i, s.centroid]` notation (throughout this file) when you have an affine span of two points.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 7]
```diff
@@ -83,6 +195,343 @@ theorem centroid_eq_of_range_eq {n : ℕ} {s₁ s₂ : Simplex k P n}
...
+ `faceOppositeCentroid`.
+-/
+def median (s : Simplex k P n) (i : Fin (n + 1)) : AffineSubspace k P :=
+  line[k, s.points i, s.faceOppositeCentroid i]
+
+@[simp] theorem median_reindex {m n : ℕ} [NeZero m] [NeZero n] (s : Simplex k P n)
+    (e : Fin (n + 1) ≃ Fin (m + 1)) :
+    (s.reindex e).median = s.median ∘ e.symm := by
+  ext i
+  simp [median]
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean:431]: I think there should also be `map` and `restrict` lemmas for `median`.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 4 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean:70]: `@[simp]` removed.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 5 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Fixed. Add new lemma `faceOppositeCentroid_mem_affineSpan_face`

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 6 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Fixed.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 7 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean:431]: Fixed.

**Comment by zcyemi** [comment]
-awaiting-author

File: Mathlib/Geometry/Euclidean/Simplex.lean [hunk 8]
```diff
@@ -66,6 +67,21 @@ lemma Equilateral.acuteAngled {s : Simplex ℝ P n} (he : s.Equilateral) : s.Acu
...
+ to the corresponding `faceOppositeCentroid`. -/
+theorem dist_point_centroid [NeZero n] (s : Simplex ℝ P n) (i : Fin (n + 1)) :
+    dist (s.points i) s.centroid = n * dist s.centroid (s.faceOppositeCentroid i) := by
+  simp_rw [dist_eq_norm_vsub, s.point_vsub_centroid_eq_smul_vsub i, norm_smul, Real.norm_natCast]
+
+/-- The distance from a vertex to its `faceOppositeCentroid` equals `(n + 1)` times the distance
+ from the `centroid` to that `faceOppositeCentroid`. -/
+theorem dist_point_faceOppositeCentroid [NeZero n] (s : Simplex ℝ P n) (i : Fin (n + 1)) :
+    dist (s.points i) (s.faceOppositeCentroid i) = (n+1)
+    * dist s.centroid (s.faceOppositeCentroid i) := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Simplex.lean]:
```suggestion
    dist (s.points i) (s.faceOppositeCentroid i) =
    (n + 1) * dist s.centroid (s.faceOppositeCentroid i) := by
```

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 9]
```diff
@@ -784,6 +785,17 @@ variable (k)
 theorem coplanar_triple (p₁ p₂ p₃ : P) : Coplanar k ({p₁, p₂, p₃} : Set P) :=
   (collinear_pair k p₂ p₃).coplanar_insert p₁
 
+/-- For simplex, the centroid, a vertex, and the corresponding faceOppositeCentroid are collinear.
+-/
+theorem Affine.Simplex.collinear_point_centroid_faceOppositeCentroid [CharZero k] {n : ℕ} [NeZero n]
+    (s : Simplex k P n) (i : Fin (n + 1)) :
+    Collinear k {s.points i, s.centroid, s.faceOppositeCentroid i} := by
+  apply collinear_insert_of_mem_affineSpan_pair
+  have h : s.points i = (-n : k) • (s.faceOppositeCentroid i -ᵥ s.centroid) +ᵥ s.centroid :=by
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
  have h : s.points i = (-n : k) • (s.faceOppositeCentroid i -ᵥ s.centroid) +ᵥ s.centroid := by
```

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 10]
```diff
@@ -784,6 +785,17 @@ variable (k)
 theorem coplanar_triple (p₁ p₂ p₃ : P) : Coplanar k ({p₁, p₂, p₃} : Set P) :=
   (collinear_pair k p₂ p₃).coplanar_insert p₁
 
+/-- For simplex, the centroid, a vertex, and the corresponding faceOppositeCentroid are collinear.
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
/-- For a simplex, the centroid, a vertex, and the corresponding `faceOppositeCentroid` are collinear.
```

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 11]
```diff
@@ -28,9 +52,96 @@ namespace Simplex
...
+theorem finset_centroid_eq (s : Simplex k P n) :
+    Finset.univ.centroid k s.points = s.centroid := rfl
+
+/-- The centroid lines in the affine span of the simplex's vertices. -/
+theorem centroid_mem_affineSpan [CharZero k] {n : ℕ} (s : Simplex k P n) :
+    s.centroid ∈ affineSpan k (Set.range s.points) :=
+  centroid_mem_affineSpan_of_card_eq_add_one k _ (card_fin (n + 1))
+
+/-- The centroid is equal to the affine combination of the points with `centroidWeights`. -/
+theorem centroid_eq_affine_combination (s : Simplex k P n) :
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]:
```suggestion
theorem centroid_eq_affineCombination (s : Simplex k P n) :
```

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 12]
```diff
@@ -28,9 +52,96 @@ namespace Simplex
 variable {k : Type*} {V : Type*} {P : Type*} [DivisionRing k] [AddCommGroup V] [Module k V]
   [AffineSpace V P]
 
+variable {n : ℕ}
+
+/-- The centroid of a simplex is the `Finset.centroid` of the set of all its vertices. -/
+abbrev centroid (t : Affine.Simplex k P n) : P := Finset.univ.centroid k t.points
+
+theorem finset_centroid_eq (s : Simplex k P n) :
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]:
```suggestion
theorem univ_centroid_eq (s : Simplex k P n) :
```

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 13]
```diff
@@ -28,9 +52,96 @@ namespace Simplex
...
+    s.centroid ∈ affineSpan k (Set.range s.points) :=
+  centroid_mem_affineSpan_of_card_eq_add_one k _ (card_fin (n + 1))
+
+/-- The centroid is equal to the affine combination of the points with `centroidWeights`. -/
+theorem centroid_eq_affineCombination (s : Simplex k P n) :
+    s.centroid = affineCombination k univ s.points (centroidWeights k univ) := by rfl
+
+/-- The centroid does not lie in the affine span of the simplex's points with one vertex removed. -/
+theorem centroid_notMem_affineSpan_compl [CharZero k] (s : Simplex k P n) (i : Fin (n + 1)) :
+    s.centroid ∉ affineSpan k (s.points '' {i}ᶜ) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: This can be generalized to the affine span of any collection of points that isn't univ, right?

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 14]
```diff
@@ -28,9 +52,96 @@ namespace Simplex
...
+    rw [sum_centroidWeights_eq_one_of_cast_card_ne_zero _ (by simp; norm_cast)]
+  rw [affineCombination_eq_weightedVSubOfPoint_vadd_of_sum_eq_one _ _ _ hsum p]
+  simp only [weightedVSubOfPoint_apply, centroidWeights_apply, card_univ, Fintype.card_fin,
+    Nat.cast_add, Nat.cast_one, vadd_vsub, ← smul_sum]
+
+/-- The vector from a vertex to the centroid equals the average of vertex-to-vertex vectors. -/
+theorem centroid_vsub_point_eq_smul_sum_vsub {n : ℕ} [CharZero k] (s : Simplex k P n)
+    (i : Fin (n + 1)) :
+    s.centroid -ᵥ s.points i = ((n + 1) : k)⁻¹ • ∑ x, (s.points x -ᵥ s.points i) :=
+  centroid_vsub_eq s (s.points i)
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: What is the benefit of this lemma? It's a literal specialization of the lemma above, right?

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 15]
```diff
@@ -28,9 +52,96 @@ namespace Simplex
...
+    (by simp) hi
+  have h2 : w i = (1 : k) / (n+1) := by
+    simp [wdef, centroidWeights_apply, card_univ, Fintype.card_fin, Nat.cast_add,
+      Nat.cast_one]
+  simp only [h2, one_div, inv_eq_zero] at h1
+  norm_cast at h1
+
+/-- The vector from any point to the centroid is the average of vectors to the simplex vertices. -/
+theorem centroid_vsub_eq {n : ℕ} [CharZero k] (s : Simplex k P n) (p : P) :
+    s.centroid -ᵥ p = ((n + 1) : k)⁻¹ • ∑ x, (s.points x -ᵥ p) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean:93]: Can the RHS also be expressed as the centroid of the translate of `s` along `p`?

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 16]
```diff
@@ -83,6 +194,357 @@ theorem centroid_eq_of_range_eq {n : ℕ} {s₁ s₂ : Simplex k P n}
...
+theorem faceOppositeCentroid_mem_affineSpan_face [CharZero k] (s : Simplex k P n)
+    (i : Fin (n + 1)) :
+    s.faceOppositeCentroid i ∈ affineSpan k (Set.range (s.faceOpposite i).points) :=
+  centroid_mem_affineSpan (s.faceOpposite i)
+
+/-- The `faceOppositeCentroid` lies in the affine span of all simplex vertices. -/
+theorem faceOppositeCentroid_mem_affineSpan [CharZero k] (s : Simplex k P n) (i : Fin (n + 1)) :
+    s.faceOppositeCentroid i ∈ affineSpan k (Set.range s.points) := by
+  have h : Set.range (s.faceOpposite i).points ⊆ Set.range s.points := by simp
+  exact affineSpan_mono _ h (s.faceOppositeCentroid_mem_affineSpan_face i)
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]:
```suggestion
  exact affineSpan_mono _ (by simp) (s.faceOppositeCentroid_mem_affineSpan_face i)
```
Does this work? If so, I wonder if this one-line should be an extra lemma. It seems to me that it can just be inlined when needed.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 12 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Fixed.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 13 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Replaced this with the generalized version `centroid_notMem_affineSpan_ne_univ`.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 14 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: Removed as suggested.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 15 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean:93]: Add a generalized version `Finset.centroid_vsub_const` in the file `AffineSpace/Centroid.lean`.
The theorem `Simplex.centroid_vsub_eq` is kept for convenient use.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean (hunk 16 above)
Comment (zcyemi) [reply Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: It works. I have removed it as suggested.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 17]
```diff
@@ -12,14 +12,38 @@ public import Mathlib.LinearAlgebra.AffineSpace.Centroid
...
+* `median` is the line connecting a vertex to the corresponding faceOppositeCentroid.
+
+## References
+
+* https://en.wikipedia.org/wiki/Median_(geometry)
+* https://en.wikipedia.org/wiki/Commandino%27s_theorem
 
 -/
 
 public section
```
Comment (jsm28) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]: The `@[expose]` has just been removed here in a recent change on master; since you're adding definitions to this file, it should probably be added back.

File: Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean [hunk 18]
```diff
@@ -28,9 +52,88 @@ namespace Simplex
...
+    s.centroid ∈ affineSpan k (Set.range s.points) :=
+  centroid_mem_affineSpan_of_card_eq_add_one k _ (card_fin (n + 1))
+
+/-- The centroid is equal to the affine combination of the points with `centroidWeights`. -/
+theorem centroid_eq_affineCombination (s : Simplex k P n) :
+    s.centroid = affineCombination k univ s.points (centroidWeights k univ) := by rfl
+
+/-- The centroid of a simplex does not lie in the affine span of any proper subset of its
+ vertices. -/
+theorem centroid_notMem_affineSpan_ne_univ [CharZero k] (s : Simplex k P n)
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/AffineSpace/Simplex/Centroid.lean]:
```suggestion
theorem centroid_notMem_affineSpan_of_ne_univ [CharZero k] (s : Simplex k P n)
```

**Review by jcommelin — COMMENTED** [review]
Thanks! Looks good to me now, apart from one suggestion about a name.

bors d+
